US09102591B2
2,3-dichloro-N-((4,4-difluoro-1-(2-(difluoromethyl)pyrimidin-5-yl)cyclohexyl)methyl)benzamide
From 2,3-dichlorobenzoic acid and (1-(2-(difluoromethyl)pyrimidin-5-yl)-4,4-difluorocyclohexyl)methanamine. LCMS (MH+): m/z=450.1, tR (minutes, Method F)=2.98

reactant | 2,3-dichlorobenzoic acid | ClC1=C(C(=O)O)C=CC=C1Cl | C7H4Cl2O2
reactant | (1-(2-(difluoromethyl)pyrimidin-5-yl)-4,4-difluorocyclohexyl)methanamine | FC(C1=NC=C(C=N1)C1(CCC(CC1)(F)F)CN)F | C12H15F4N3
product | 2,3-dichloro-N-((4,4-difluoro-1-(2-(difluoromethyl)pyrimidin-5-yl)cyclohexyl)methyl)benzamide | ClC1=C(C(=O)NCC2(CCC(CC2)(F)F)C=2C=NC(=NC2)C(F)F)C=CC=C1Cl | C19H17Cl2F4N3O
